US05658923
Triethylamine 0.096 ml was added to a methylene chloride 5 ml solution of (1S)-1,8,8-trimethyl-3-azabicyclo[3.2.1]octane hydrochloride 100 mg and stirred at O@C for 30 min. 2-adamantane carboxylic acid 0.11 g and WSC 0.13 g were added therein, then temperature of the reaction mixture was gradually changed to room temperature and stirred for 17 hours. The reaction mixture was washed with saturated aqueous sodium chloride solution and dried by anhydrous sodium sulfate. After filtering the drying agent, the filtrate was concentrated in vacuo to obtain crude (1S)-3-(2-adamantylcarbonyl)-1,8,8-trimethyl-3-azabicyclo[3.2.1]octane. The concentrate was added to THF 10 ml solution of lithium aluminum hydride 24.0 mg and refluxed under heating for 2 hours. The-reaction mixture was cooled, then water was added thereto and the insoluble material was removed by filtration. The filtrate was concentrated in vacuo. The thus obtained residue was purified by means of silica gel column chromatography (Wako gel, C200, chloroform) to obtain the product.

reactant | Triethylamine | 0.096 ml | C(C)N(CC)CC | C6H15N
reactant | (1S)-1,8,8-trimethyl-3-azabicyclo[3.2.1]octane hydrochloride | 100 mg | Cl.C[C@]12CNCC(CC1)C2(C)C
reactant | 2-adamantane carboxylic acid | 0.11 g | C12C(C3CC(CC(C1)C3)C2)C(=O)O | C11H16O2
reactant | WSC | 0.13 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | (1S)-3-(2-adamantylcarbonyl)-1,8,8-trimethyl-3-azabicyclo[3.2.1]octane | C12C(C3CC(CC(C1)C3)C2)C(=O)N2C[C@]3(CCC(C2)C3(C)C)C | C21H33NO
